some corner case fourier check
*
m1 3 2 5 8 cmosn w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m2 4 1 5 8 cmosn w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m3 3 3 9 9 cmosp w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m4 4 3 9 9 cmosp w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m5 5 7 8 8 cmosn w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m6 6 4 9 9 cmosp w=9u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m7 6 7 8 8 cmosn w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
m8 7 7 8 8 cmosn w=5u l=5u ad=45p as=45p pd=28u ps=28u nrd=1.8 nrs=1.8
cc 4 6 5.0p
ib 9 7 .36u
vdd 9 0 2.5
vss 8 0 -2.5
cl 6 0 20p
rl 6 0 10meg
*
vin 1 0  sin(0 .5 1k 0 0) ac=.5
ein 0 2 1 0 1
*
.model cmosn nmos (level=2 ld=0.265073u tox=418.0e-10
+ nsub=1.53142e+16 vto=0.844345 kp=4.15964e-05 gamma=0.863074
+ phi=0.6 uo=503.521 uexp=0.163917 ucrit=161166
+ delta=1e-06 vmax=55903.5 xj=0.400000u lambda=0.01
+ nfs=3.5934e+12 neff=1.001 nss=1e+12 tpg=1.000000
+ rsh=29.3 cgdo=2.18971e-10 cgso=2.18971e-10
+ cj=0.0003844 mj=0.488400 cjsw=5.272e-10 mjsw=0.300200 pb=0.700000)
.model cmosp pmos (level=2 ld=0.299878u tox=418.0e-10
+ nsub=4.19363e+15 vto=-0.79089 kp=1.64047e-05 gamma=0.451645
+ phi=0.6 uo=198.577 uexp=0.343935 ucrit=110988
+ delta=0.956806 vmax=41456.3 xj=0.400000u lambda=0.02
+ nfs=1e+12 neff=1.001 nss=1e+12 tpg=-1.000000
+ rsh=107.6 cgdo=2.47722e-10 cgso=2.47722e-10
+ cj=0.0002281 mj=0.508000 cjsw=3.077e-10 mjsw=0.193500 pb=0.740000)
*

.print fourier v(vin) v(6)
.fourier 0k 20k 10k
.status notime
.end
